US06432963B1
A 0.2 ml portion of hydrazine monohydrate was added to a mixture of 350 mg of 2-[2-(1,3-dioxo-2,3-dihydroisoindol-2-yl)ethyl]amino-4-(3-methylanilino)pyrimidine-5-carboxamide with 10 ml of ethanol, followed by heating under reflux for 4 hours. The reaction mixture was concentrated under a reduced pressure. A chloroform-methanol mixed solution was added to the thus obtained residue, followed by washing with water, 1 M sodium hydroxide aqueous solution and saturated brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated under a reduced pressure, and the resulting residue was recrystallized from ethanol to obtain 140 mg of 2-(2-aminoethoxy)-4-(3-methylanilino)pyrimidine-5-carboxamide (colorless crystals).

reactant | hydrazine monohydrate | O.NN
reactant | 2-[2-(1,3-dioxo-2,3-dihydroisoindol-2-yl)ethyl]amino-4-(3-methylanilino)pyrimidine-5-carboxamide | 350 mg | O=C1N(C(C2=CC=CC=C12)=O)CCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C22H20N6O3
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(2-aminoethoxy)-4-(3-methylanilino)pyrimidine-5-carboxamide | 140 mg | NCCOC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C14H17N5O2
